US07026340B2
2-(Chloromethyl)pyridine hydrochloride (303 mg) was suspended in N,N-dimethylformamide (3 ml), potassium carbonate (256 mg) was added thereto, and the mixture was stirred. Then, to the suspension was added a solution of (3,3,3-trifluoropropyl)malononitrile (300 mg) in N,N-dimethylformamide (3 ml), and further thereto was added potassium carbonate (256 mg), followed by stirring overnight at room temperature. To the reaction mixture was added water, and extracted with ethyl acetate. The organic layer was washed successively with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue obtained was subjected to silica gel column chromatography to give 270 mg of 2-((2-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile represented by the following formula (hereinafter referred to as the present invention compound (5)).

reactant | 2-(Chloromethyl)pyridine hydrochloride | 303 mg | Cl.ClCC1=NC=CC=C1
reactant | potassium carbonate | 256 mg | C([O-])([O-])=O.[K+].[K+]
reactant | (3,3,3-trifluoropropyl)malononitrile | 300 mg | FC(CCC(C#N)C#N)(F)F | C6H5F3N2
reactant | potassium carbonate | 256 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-((2-pyridyl)methyl)-2-(3,3,3-trifluoropropyl)malononitrile | 270 mg | N1=C(C=CC=C1)CC(C#N)(C#N)CCC(F)(F)F | C12H10F3N3
